US06265415B1
Synthesis of 8-amino-6-bromo-3-carboethoxy-2-methylimidazo[1,2-a]pyridine
A mixture of 2,3-diamino-5-bromopyridine (2.5 g, 13.31 mmol) and ethyl 2-chloroacetoacetate (2.41 g, 14.64 mmol) in 35 ml abs. Ethanol was refluxed for 14 h. The ethanol was evaporated under reduced pressure. The residue was dissolved in methylene chloride and neutralized by aqueous NaHCO3. The organic layer was separated, dried and evaporated in vacuo. The residue was purified by column chromatography on silica gel with methylene chloride:methanol (100:3.5) as eluent to give 1.55 g (39%) of the title compound.

reactant | 2,3-diamino-5-bromopyridine | 13.31 mmol, 2.5 g | NC1=NC=C(C=C1N)Br | C5H6BrN3
reactant | ethyl 2-chloroacetoacetate | 14.64 mmol, 2.41 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | Ethanol | C(C)O | C2H6O
product | 8-amino-6-bromo-3-carboethoxy-2-methylimidazo[1,2-a]pyridine | 1.55 g, 39% | NC=1C=2N(C=C(C1)Br)C(=C(N2)C)C(=O)OCC | C11H12BrN3O2
